US06919338B2
N′-(2-cyano-5-((2S)-2-hydroxy-3-piperidinylpropoxy)-4-methoxyphenyl)-N,N,-dimethylimidoformamide
N′-(2-cyano-5-(2S)-oxiranylmethoxy-4-methoxyphenyl)-N,N-dimethylimidoformamide (850 mg, 3.09 mmol) in chloroform (6 ml) and ethanol (12 ml) was irradiated with piperidine (0.46 ml, 4.6 mmol) in a microwave oven at reflux for 10 minutes. The solvent was evaporated and the residue was purified by silica gel chromatography, eluant CH2Cl2/MeOH 90/10 to give title compound (954 mg, 86%).

reactant | N′-(2-cyano-5-(2S)-oxiranylmethoxy-4-methoxyphenyl)-N,N-dimethylimidoformamide | 3.09 mmol, 850 mg | C(#N)C1=C(C=C(C(=C1)OC)OC[C@H]1OC1)N=CN(C)C | C14H17N3O3
reactant | piperidine | 4.6 mmol, 0.46 ml | N1CCCCC1 | C5H11N
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | N′-(2-cyano-5-((2S)-2-hydroxy-3-piperidinylpropoxy)-4-methoxyphenyl)-N,N,-dimethylimidoformamide | 954 mg, 86% | C(#N)C1=C(C=C(C(=C1)OC)OC[C@H](CN1CCCCC1)O)N=CN(C)C | C19H28N4O3
